US09023847B2
A suspension of 6-chloro-7-deazapurine (750 mg; 4.88 mmol), methyl 3-amino-2-thiophenecarboxylate (1.15 g; 7.33 mmol) and concentrated hydrochloric acid (410 μL; 4.9 mmol) in tert-butanol (15 mL) was microwaved at 75° C. for 3 h. The reaction mixture was diluted with methanol (15 mL) and filtered. The aqua solid was washed with methanol and dried under vacuo to afford the hydrochloric salt of 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester (900 mg, 59%) as a green-gray solid (HPLC: 99%, RT: 6.50 min). 1H NMR (DMSO-d6) 12.47 (br s, 1H), 10.68 (br s, 1H), 8.44 (s, 1H), 8.08 (br s, 1H), 8.02 (d, J=5.5 Hz, 1H), 7.47 (dd, J=3.3, 2.2 Hz, 1H), 6.66 (br s, 1H), 3.83 (s, 3H); MS (m/z) 275 [M+H]+.

reactant | 6-chloro-7-deazapurine | 4.88 mmol, 750 mg | C1=CNC2=C1C(=NC=N2)Cl | C6H4ClN3
reactant | methyl 3-amino-2-thiophenecarboxylate | 7.33 mmol, 1.15 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | hydrochloric acid | 4.9 mmol, 410 μL | Cl | ClH
solvent | tert-butanol | 15 mL | C(C)(C)(C)O | C4H10O
solvent | methanol | 15 mL | CO | CH4O
product | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester | 900 mg, 59% | COC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C12H10N4O2S
